US08383629B2
A mixture of tert-butyl-4-oxopiperidine-1-carboxylate (19 g, 0.0.096 mol), 4-methoxybenzylamine (13 g, 0.096 mol) and toluene was stirred at 100° C. for 3 h and then concentrated to give a residue. Toluene (300 mL), 3-bromo-2-iodo-benzoyl chloride (25 g, 0.077 mol), and Et3N (24.5 g, 0.23 mol) were added to the residue and the mixture was stirred at 80° C. overnight. The mixture was cooled, and poured into water and extracted with EtOAc. The organic layer was dried and concentrated to give the crude product which was purified by column chromatography to afford tert-butyl 4-(3-bromo-2-iodo-N-(4-methoxybenzyl)benzamido)-5,6-dihydropyridine-1(2H)-carboxylate (30 g, 63%). 1H NMR: (400 MHz, MeOD): δ=1.38 (s, 9H), 1.43 (m, 2H), 1.48 (m, 4H), 1.63 (m, 2H), 3.18 (m, 2H), 3.60 (m, 2H), 3.80 (s, 3H), 4.55 (d, 1H), 5.49 (m, 1H), 6.88 (m, 3H), 7.02 (m, 2H), 7.16 (m, 1H), 7.32 (m, 3H), 7.55 (m, 1H).

reactant | tert-butyl-4-oxopiperidine-1-carboxylate | 19 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 4-methoxybenzylamine | 0.096 mol, 13 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 3-bromo-2-iodo-benzoyl chloride | 0.077 mol, 25 g | BrC=1C(=C(C(=O)Cl)C=CC1)I | C7H3BrClIO
reactant | Et3N | 0.23 mol, 24.5 g | CCN(CC)CC | C6H15N
solvent | water | O | H2O
solvent | Toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(3-bromo-2-iodo-N-(4-methoxybenzyl)benzamido)-5,6-dihydropyridine-1(2H)-carboxylate | 30 g, 63% | BrC=1C(=C(C(=O)N(CC2=CC=C(C=C2)OC)C2=CCN(CC2)C(=O)OC(C)(C)C)C=CC1)I | C25H28BrIN2O4
